US07691869B2
To a solution of 3-methylbenzo[b]thiophene-2-carbaldehyde (0.029 mol) in dry DCM (100 mL) is added t-butyl piperazine-1-carboxylate (0.0319 mol), and the mixture is stirred at RT for 1 h. 0.042 Mol of NaBH(OAc)3 is added in portions, and the reaction mixture is stirred overnight at RT. The resulting solution is concentrated under vacuum, and the residue is partitioned between DCM and aqueous sodium bicarbonate solution. The organic phase is separated, washed with water, dried (MgSO4) and evaporated in vacuo. The residue is purified by column chromatography on silica gel by eluting with DCM/MeOH (9/1) to afford t-butyl 4-((3-methylbenzo[b]thiophen-2-yl)methyl)piperazine-1-carboxylate.

reactant | 3-methylbenzo[b]thiophene-2-carbaldehyde | 0.029 mol | CC=1C2=C(SC1C=O)C=CC=C2 | C10H8OS
reactant | t-butyl piperazine-1-carboxylate | 0.0319 mol | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | NaBH(OAc)3 | 0.042 Mol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | t-butyl 4-((3-methylbenzo[b]thiophen-2-yl)methyl)piperazine-1-carboxylate | CC=1C2=C(SC1CN1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2 | C19H26N2O2S
